US03989758
The residue obtained (240 g.) is dissolved in 1800 ml. of acetone, treated with 300 ml. of N-sulfuric acid and allowed to stand at room temperature in a nitrogen atmosphere for 1 hour. Then the reaction mixture, after dilution with 4000 ml. of water, is taken up in ether. The ether extract is washed with sodium bicarbonate solution and water, dried over sodium sulfate, filtered, and evaporated. 170 g. of crude 2,6-dimethyl-8-hydroxy-2,6-octadien-4-in-1-al is obtained which can be purified through adsorption on aluminum oxide (activity II deactivated by the addition of 7 per cent water). A small portion is removed by washing with petroleum ether/ether mixture (4:1). By elution with a petroleum ether/ether mixture (3:2) there is obtained pure 2,6-dimethyl-8-hydroxy-2,6-octadien-4-in-1-al (Abs. Max. 312 mμ; E11 = 1200) (in 96 per cent ethyl alcohol). 125 g. of 2,6-dimethyl-8-hydroxy-2,6-octadien-4-in-1-al are dissolved in 600 ml. of toluene and hydrogenated until the cessation of hydrogen takeup after the addition of 15 g. of a lead/palladium-calcium carbonate catalyst and 2 ml. of quinoline in the usual manner. After filtration and evaporation of the solution, there is obtained 2,6-dimethyl-8-hydroxy-2,4,6-octatrien-1-al.

reactant | 2,6-dimethyl-8-hydroxy-2,6-octadien-4-in-1-al | CC(C=O)=CC#CC(=CCO)C | C10H12O2
reactant | hydrogen | [H][H] | H2
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | palladium-calcium carbonate | C([O-])([O-])=O.[Ca+2].[Pd+2].C([O-])([O-])=O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,6-dimethyl-8-hydroxy-2,4,6-octatrien-1-al | CC(C=O)=CC=CC(=CCO)C | C10H14O2
